US08859591B2
To a 0° C. solution of 6-chloro-N-methoxy-N-methylnicotinamide (2 g, 10 mmol) in THF (30 mL) was added the iso-butymagnesium bromide (15 mL of a 1.33M solution in THF, 20 mmol). The reaction mixture was stirred at 25° C. for 2 h. The reaction was quenched by addition of aqueous NH4Cl (30 mL) and extracted with ethyl acetate (30 mL*2). The organic layer was washed with brine (50 mL) and water (50 mL), then dried over anhydrous Na2SO4 and concentrated under reduced pressure. The crude residue was purified by silica gel chromatography to give 1-(6-chloropyridin-3-yl)-3-methylbutan-1-one (1.8 g) as a colorless solid. 1H NMR (400 MHz, CDCl3) δ 8.85 (d, J=2.0 Hz, 1H), 8.12 (dd, J=2.4, 8.4 Hz, 1H), 7.37 (d, J=8.0 Hz, 1H), 2.75 (d, J=6.8 Hz, 2H), 2.26-2.19 (m, 1H), 0.94 (d, J=6.8 Hz, 6H).

reactant | 6-chloro-N-methoxy-N-methylnicotinamide | 10 mmol, 2 g | ClC1=NC=C(C(=O)N(C)OC)C=C1 | C8H9ClN2O2
reactant | iso-butymagnesium bromide | C(C(C)C)[Mg]Br
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 1-(6-chloropyridin-3-yl)-3-methylbutan-1-one | 1.8 g | ClC1=CC=C(C=N1)C(CC(C)C)=O | C10H12ClNO
